US08304557B2
1,3-dimethyl-N-{3-[(5-nitropyridin-2-yl)oxy]phenyl}-1H-pyrazole-5-carboxamide
A mixture of N-(3-hydroxyphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide (1.58 g, 6.83 mmol), 2-chloro-5-nitropyridine (1.03 g, 6.51 mmol), potassium carbonate (1.42 g, 10.2 mmol) and N,N-dimethylformamide (10 mL) was stirred at 60° C. for 15 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (hexane/ethyl acetate=70/30→0/100) to give the title compound (2.26 g, 94%) as a white solid.

reactant | N-(3-hydroxyphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide | 6.83 mmol, 1.58 g | OC=1C=C(C=CC1)NC(=O)C1=CC(=NN1C)C | C12H13N3O2
reactant | 2-chloro-5-nitropyridine | 6.51 mmol, 1.03 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | potassium carbonate | 10.2 mmol, 1.42 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1,3-dimethyl-N-{3-[(5-nitropyridin-2-yl)oxy]phenyl}-1H-pyrazole-5-carboxamide | 2.26 g, 94% | CN1N=C(C=C1C(=O)NC1=CC(=CC=C1)OC1=NC=C(C=C1)[N+](=O)[O-])C | C17H15N5O4
